* C:\users\fabian\Documents\UTN\TC2\TS3_2024\TS3.asc
C1 N001 0 0.8
R1 N001 in 1
R2 N002 N001 1
L1 N002 out 0.798
C2 out 0 0.8
Vin in 0 AC 1
.ac dec 100 0.01 10
.lib opamp.sub
.backanno
.end
