* C:\users\fabian\Documents\UTN\TC2\TS4_2024\TS4.asc
R5 N006 in 1K
R6 2 N006 1K
R4 1 N001 1K
R3 N002 N001 1K
R1 N005 1 1K
R2 N007 2 1K
Vin in 0 AC 1
XU1 N001 N006 1 opamp Aol=100K GBW=10Meg
XU2 N005 0 2 opamp Aol=100K GBW=10Meg
XU3 N007 0 N002 opamp Aol=100K GBW=10Meg
C1 2 N005 1.69µ
C2 N002 N007 1.34µ
R7 N009 N002 1K
R8 4 N009 1K
R9 3 N003 1K
R10 N004 N003 1K
R11 N008 3 1K
R12 N010 4 1K
XU4 N003 N009 3 opamp Aol=100K GBW=10Meg
XU5 N008 0 4 opamp Aol=100K GBW=10Meg
XU6 N010 0 N004 opamp Aol=100K GBW=10Meg
C3 4 N008 4.45µ
C4 N004 N010 239n
R13 out N004 1K
C5 out 0 2.75µ
.lib opamp.sub
.ac dec 100 10 10K
.backanno
.end
